US05792778
2-(3-trifluoromethylphenyl)-5-(4-piperidyl)-3-(4-pyridinyl)-pyrrole
To m-trifluoromethylbenzaldehyde (2.44 g, 0.014 mol) in 5 mL of DMF was added NaCN (0.147 g, 0.003 mol) and the mixture was stirred under argon for 1 hour. This solution was added to 1-(1-benzyloxycarbonyl-4-piperidinyl)-3-(4-pyridyl)-2-propen-1-one in 10 mL of DMF. The mixture was stirred at 65°-75° C. for 20 hours. The volatile components were removed in vacuo. The residual oil was taken up in EtOAc and sat'd NaCl. The EtOAc extract was separated, dried, filtered and concentrated in vacuo to form an oil. The crude oil was chromatographed on silica gel eluting with ethyl acetate, producing 3.45 g of the title compound as a yellow foam.

reactant | m-trifluoromethylbenzaldehyde | 0.014 mol, 2.44 g | FC(C=1C=C(C=O)C=CC1)(F)F | C8H5F3O
reactant | NaCN | 0.003 mol, 0.147 g | [C-]#N.[Na+]
reactant | 1-(1-benzyloxycarbonyl-4-piperidinyl)-3-(4-pyridyl)-2-propen-1-one | C(C1=CC=CC=C1)OC(=O)N1CCC(CC1)C(C=CC1=CC=NC=C1)=O | C21H22N2O3
solvent | DMF | 5 mL | CN(C)C=O | C3H7NO
solvent | DMF | 10 mL | CN(C)C=O | C3H7NO
product | 2-(3-trifluoromethylphenyl)-5-(4-piperidyl)-3-(4-pyridinyl)-pyrrole | 3.45 g | FC(C=1C=C(C=CC1)C=1NC(=CC1C1=CC=NC=C1)C1CCNCC1)(F)F | C21H20F3N3
